US07288547B2
A reaction mixture of 130 mg (0.31 mmol) of (R)-4-[5-bromo-4-(2-hydroxy-1-methyl-ethylamino)-pyrimidin-2-ylamino]-thiophene-2-sulfonyl fluoride, 22 mg (0.31 mg) of aminomethylcyclopropane, 43 μl (0.31 mmol) of triethylamine as well as 38 mg (0.31 mmol) of DMAP in 2-butanol is stirred under reflux for 43 hours. It is mixed again with 22 mg (0.31 mg) of aminomethylcyclopropane, 43 μl (0.31 mmol) of triethylamine as well as 38 mg (0.31 mmol) of DMAP and stirred for another 24 hours under reflux. After cooling, the batch is purified by chromatography (Flashmaster II, DCM/ethanol 95:5), and the crude product that is obtained is recrystallized (ethanol/diisopropyl ether). 35 mg (0.08 mmol, 26% of theory) of the product 4-[5-bromo-4-(2-hydroxy-1-methyl-ethylamino)-pyrimidin-2-ylamino]-thiophene-2-sulfonic acid cyclopropylmethyl-amide is obtained.

reactant | (R)-4-[5-bromo-4-(2-hydroxy-1-methyl-ethylamino)-pyrimidin-2-ylamino]-thiophene-2-sulfonyl fluoride | 0.31 mmol, 130 mg | BrC=1C(=NC(=NC1)NC=1C=C(SC1)S(=O)(=O)F)N[C@@H](CO)C | C11H12BrFN4O3S2
reactant | aminomethylcyclopropane | 22 mg | NCC1CC1 | C4H9N
reactant | triethylamine | 0.31 mmol, 43 μl | C(C)N(CC)CC | C6H15N
reactant | aminomethylcyclopropane | 22 mg | NCC1CC1 | C4H9N
reactant | triethylamine | 0.31 mmol, 43 μl | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 0.31 mmol, 38 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | 2-butanol | CC(CC)O | C4H10O
catalyst | DMAP | 0.31 mmol, 38 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-[5-bromo-4-(2-hydroxy-1-methyl-ethylamino)-pyrimidin-2-ylamino]-thiophene-2-sulfonic acid cyclopropylmethyl-amide | C1(CC1)CNS(=O)(=O)C=1SC=C(C1)NC1=NC=C(C(=N1)NC(CO)C)Br | C15H20BrN5O3S2
